US07977343B2
9.1 Reaction of 1.0 g of ethyl(R)-5-oxopyrrolidine-2-carboxylate, 949.8 μl of benzyl chloroformate, 6.9 ml of bis(trimethylsilyl)lithium amide (in THF) in 25 ml of THF under standard conditions and work-up gives 730 mg of ethyl(R)-5-oxo-N-benzyloxycarbonylpyrrolidine-2-carboxylate (“17”).

reactant | ethyl(R)-5-oxopyrrolidine-2-carboxylate | 1.0 g | O=C1CC[C@@H](N1)C(=O)OCC | C7H11NO3
reactant | benzyl chloroformate | 949.8 μl | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | ethyl(R)-5-oxo-N-benzyloxycarbonylpyrrolidine-2-carboxylate | 730 mg | O=C1CC[C@@H](N1C(=O)OCC1=CC=CC=C1)C(=O)OCC | C15H17NO5
